US04022797
Reaction of N-methyl-N'-[2-(3-isoxazolylmethylthio)ethyl]thiourea with lead cyanamide by the procedure of Example 121 gives N-cyano-N'-methyl-N"-[2-(3-isoxazolylmethylthio)ethyl]guanidine.

reactant | N-methyl-N'-[2-(3-isoxazolylmethylthio)ethyl]thiourea | CNC(=S)NCCSCC1=NOC=C1 | C8H13N3OS2
reactant | lead cyanamide | N#CN.[Pb]
product | N-cyano-N'-methyl-N"-[2-(3-isoxazolylmethylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=NOC=C1)NC | C9H13N5OS
